US07411072B2
Ethanesulfonic acid [3-(2-methoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide (E/Z Mixture)
Following the procedures essentially as described in Example 219, below, and using 5-bromomethylene-2-methoxy-10,11dihydro-5H-dibenzo[a,d]cycloheptene (E/Z mixture, 97 mg, 0.31 mmol) with 3-ethanesulfonylaminophenylboronic acid (78 mg, 0.34 mmol) to give 57 mg (44%) of an E/Z mixture of the title compound. MS (ES) 420 (M+1) weak, 418 (M−1). HPLC shows 45% of the E isomer and 53% of the Z isomer.

reactant | 5-bromomethylene-2-methoxy-10,11dihydro-5H-dibenzo[a,d]cycloheptene | 0.31 mmol, 97 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)OC)C=CC=C2 | C17H15BrO
reactant | 3-ethanesulfonylaminophenylboronic acid | 0.34 mmol, 78 mg | C(C)S(=O)(=O)NC=1C=C(C=CC1)B(O)O | C8H12BNO4S
product | Ethanesulfonic acid [3-(2-methoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-amide | COC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)CC)C=C1 | C25H25NO3S
